US04208202
(a) 1-(3'-Nitro-4',6'-dimethylphenyl)-piperidin-2-one
77 g (0.27 mol) of N-(3-nitro-4,6-dimethylphenyl)-δ-chlorovaleroylamide are stirred vigorously in a mixture of 50 ml of tetrahydrofurane and 500 ml of 22% strength aqueous sodium hydroxide solution for 5 hours at 60°-65°. The reaction mixture is diluted with water, cooled and acidified with hydrochloric acid. The product which has precipitated is washed until neutral and dried in a desiccator at 70°. This gives 62.8 g (93%); melting point 134°-135° .

reactant | N-(3-nitro-4,6-dimethylphenyl)-δ-chlorovaleroylamide | 0.27 mol, 77 g | [N+](=O)([O-])C=1C=C(C(=CC1C)C)[N-]C(CCCCCl)=O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(3'-Nitro-4',6'-dimethylphenyl)-piperidin-2-one | [N+](=O)([O-])C=1C=C(C(=CC1C)C)N1C(CCCC1)=O | C13H16N2O3
